US07745484B2
N-((1S,2R)-3-(((4′S)-6′-(2,2-dimethylpropyl)-8′-(methyloxy)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-((3-fluorophenyl)methyl)-2-hydroxypropyl)acetamide
To a 2 mL microwave vial is added cesium carbonate (283 mg, 869 μmol), di-tert-butyl(2-(2-isopropylnaphthalen-1-yl)-3,4,5,6-tetramethylphenyl)phosphine (71 mg, 159 μmol), palladium(II) acetate (33 mg, 145 μmol), and N-((1S,2R)-3-(((4′S)-8′-chloro-6′-(2,2-dimethylpropyl)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-((3-fluorophenyl)methyl)-2-hydroxypropyl)acetamide (75 mg, 145 μmol) were added and the vial was flushed with N2 5×, then methanol (160 μl, 3619 μmol) and toluene (1 mL) were added simultaneously. The reaction was heated in the microwave at 110° C. for 30 min. LCMS shows 100% conversion. The reaction mixture was filtered through a small plug of silica gel, and the residue purified by reverse phase HPLC on a Phenomenex Synergi column (5 micron, MAX-RP, 80 Å, 150×30 mm) eluting at 45 mL/min with an linear gradient of 10% (v/v) to 100% MeCN (0.1% v/v TFA) in water (0.1% TFA) over 30 minutes to give the title compound as a tan amorphous solid. MS m/z: 514.2(M+1).

reactant | cesium carbonate | 869 μmol, 283 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | di-tert-butyl(2-(2-isopropylnaphthalen-1-yl)-3,4,5,6-tetramethylphenyl)phosphine | 159 μmol, 71 mg | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=CC2=CC=CC=C12)C(C)C)C(C)(C)C | C31H43P
reactant | N-((1S,2R)-3-(((4′S)-8′-chloro-6′-(2,2-dimethylpropyl)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-((3-fluorophenyl)methyl)-2-hydroxypropyl)acetamide | 145 μmol, 75 mg | ClC=1N=C(C=C2C1OC1(C[C@@H]2NC[C@H]([C@H](CC2=CC(=CC=C2)F)NC(C)=O)O)CCC1)CC(C)(C)C | C28H37ClFN3O3
reactant | methanol | 3619 μmol, 160 μl | CO | CH4O
catalyst | palladium(II) acetate | 145 μmol, 33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-((1S,2R)-3-(((4′S)-6′-(2,2-dimethylpropyl)-8′-(methyloxy)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-((3-fluorophenyl)methyl)-2-hydroxypropyl)acetamide | CC(CC=1C=C2C(=C(N1)OC)OC1(C[C@@H]2NC[C@H]([C@H](CC2=CC(=CC=C2)F)NC(C)=O)O)CCC1)(C)C | C29H40FN3O4
